US06521643B1
A suspension of 2-amino-4-methyl-5-(4-methylpyridin-2-yl)thiazole (205 mg), ethyl acetimidate hydrochloride (370 mg) and diisopropylethylamine (0.697 ml) in N,N-dimethylformamide (4 ml) was stirred at ambient temperature for 10 days and evaporated under reduced pressure. To the residue was added hydrogen chloride in ethyl acetate (4N, 4 ml) and crystallized from methanol and ethyl acetate. The precipitate was collected by filtration and recrystallized from methanol and 2-propanol to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)acetamidine dihydrochloride (220 mg).

reactant | 2-amino-4-methyl-5-(4-methylpyridin-2-yl)thiazole | 205 mg | NC=1SC(=C(N1)C)C1=NC=CC(=C1)C | C10H11N3S
reactant | ethyl acetimidate hydrochloride | 370 mg | Cl.C(C)(OCC)=N
reactant | diisopropylethylamine | 0.697 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)acetamidine dihydrochloride | 220 mg | Cl.Cl.CC=1N=C(SC1C1=NC=CC(=C1)C)NC(C)=N | InChI=1S/C12H14N4S.2ClH/c1-7-4-5-14-10(6-7)11-8(2)15-12(17-11)16-9(3)13;;/h4-6H,1-3H3,(H2,13,15,16);2*1H
